US04888025
Preparation of 1-(2'-acetylamino-5'-nitrophenoxy)-2,3-epoxypropane
0.376 mol (73.7 g) of 2-acetylamino-5-nitrophenol is dissolved in 375 ml of 1.1 N sodium hydroxide solution, and 300 ml of epichlorohydrin are then added. The reaction medium is left to stand for 96 hours at 20° C., with thorough stirring, and the expected product which has precipitated is then filtered off and washed with water. After recrystallisation from ethanol and drying in vacuo, it melts at 164° C.

reactant | 2-acetylamino-5-nitrophenol | 0.376 mol, 73.7 g | C(C)(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O | C8H8N2O4
reactant | epichlorohydrin | 300 ml | C(Cl)C1CO1 | C3H5ClO
solvent | sodium hydroxide | 1.1 N, 375 ml | [OH-].[Na+]
product | 1-(2'-acetylamino-5'-nitrophenoxy)-2,3-epoxypropane | C(C)(=O)NC1=C(OCC2CO2)C=C(C=C1)[N+](=O)[O-] | C11H12N2O5
